US05861401
2M Sodium hydroxide solution (0.6 ml) was added to a solution of N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide (0.232 g) in methanol (2.4 ml) and dimethoxyethane (2.4 ml) and the mixture was stirred for 2 hours. Volatile material was removed by evaporation and water (10 ml) was added to the residue. The mixture was acidified with 2M hydrochloric acid and extracted with ethyl acetate (2×10 ml). The extracts were washed with water (10 ml) and saturated sodium chloride solution (10ml) and dried (MgSO4). The solvent was removed by evaporation and the residue was recrystallised from ethanol to give N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide (0.1 g) m.p. 184°-185° C.; 1H NMR (d6 -DMSO): 2.3 (s,3H), 2.4 (s,3H), 3.6 (s,3H), 7.05-7.3 (m,5H), 7.45-7.7 (m,3H), 8.1 (dd,1H), 9.35-9.45 (br s,1H); mass spectrum (-ve FAB, DMSO/Methanol/GLY): 368 (M-H)-.

reactant | Sodium hydroxide | 2M, 0.6 ml | [OH-].[Na+]
reactant | N-(isobutoxycarbonyl)-N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide | 0.232 g | C(C(C)C)OC(=O)N(S(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C)C1=NC=C(N=C1OC)C | C24H27N3O5S
solvent | methanol | 2.4 ml | CO | CH4O
solvent | dimethoxyethane | 2.4 ml | C(OC)COC | C4H10O2
product | N-(3-methoxy-5-methyl-2-pyrazinyl)-4'-methyl-2-biphenylsulphonamide | 0.1 g | COC=1C(=NC=C(N1)C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C | C19H19N3O3S
